US09353075B2
Step 1. Preparation of 7-phenylheptan-1-ol
Under nitrogen atmosphere, at 0° C., to a stirring mixture of LiAlH4 (0.51 g, 13.57 mmol) in dry Et2O (35 mL), 7-phenylheptanoic acid (0.7 g, 3.39 mmol) in dry Et2O (5 mL) was dropwise added. The mixture was left to react at rt for 4 h, then at 0° C. H2O (0.51 mL), 3M KOH solution (0.51 mL) and H2O (1.70 mL) were very slowly added. The mixture was stirred for 1 h at 0° C., filtered to remove the solid residue, and the organic phase dried over Na2SO4. The organic solution was again filtered and concentrated to dryness affording the title compound (0.586 g, 90%) as a colorless oil. 1H NMR (CDCl3): δ 1.17-1.27 (m, 1H), 1.34-1.43 (m, 6H), 1.53-1.71 (m, 4H), 2.59-2.67 (m, 2H), 3.66 (t, J=6.5 Hz, 2H), 7.16-7.23 (m, 3H), 7.26-7.34 (m, 2H).

reactant | LiAlH4 | 13.57 mmol, 0.51 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 7-phenylheptanoic acid | 3.39 mmol, 0.7 g | C1(=CC=CC=C1)CCCCCCC(=O)O | C13H18O2
reactant | H2O | 0.51 mL | O | H2O
reactant | KOH | 3M, 0.51 mL | [OH-].[K+]
reactant | H2O | 1.70 mL | O | H2O
solvent | Et2O | 35 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 7-phenylheptan-1-ol | 0.586 g, 90% | C1(=CC=CC=C1)CCCCCCCO | C13H20O
